US05498737
2.5 g (20 mmol) of n-propyl bromide was dripped into a mixture of 0.5 g (21 mmol) of magnesium and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 7.8 g (20 mmol) of 1-chloro-4-(trans-4-(2-(3,4,5-trifluorophenyl) ethyl) cyclohexyl)-1-silacyclohexane. The silacyclohexane rings of the reacted mixture thus obtained were a mixture of trans isomers and cis isomers. After a conventional after treatment, they were separated by means of chromatography to obtain 6.1 g (yield 80%) of trans-4-(trans-4-(2-(3,4,5-trifluorophenyl) ethyl) cyclohexyl)-1-n-propyl-1-silacyclohexane.

reactant | n-propyl bromide | 20 mmol, 2.5 g | CCCBr | C3H7Br
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 1-chloro-4-(trans-4-(2-(3,4,5-trifluorophenyl) ethyl) cyclohexyl)-1-silacyclohexane | 20 mmol, 7.8 g | Cl[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)CCC1=CC(=C(C(=C1)F)F)F | C19H26ClF3Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(2-(3,4,5-trifluorophenyl) ethyl) cyclohexyl)-1-n-propyl-1-silacyclohexane | 6.1 g, yield 80% | FC=1C=C(C=C(C1F)F)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCC | C22H33F3Si
